US08053440B2
A mixture of malonic acid (20 g, 192 mmol), 2,4,6-trichlorophenol (72 g, 365 mmol), and phosphorus oxychloride (38 mL, 403.2 mmol) was stirred at reflux for 12 h. The reaction mixture was cooled to 70° C. and poured into ice water. The solid was collected by filtration, washed with water, and dried to give malonic acid bis-(2,4,6-trichloro-phenyl)ester (85 g, 95%). A solution of malonic acid bis-(2,4,6-trichloro-phenyl)ester (85 g, 184 mmol) and ethyl 3-aminocrotonate (26.08 g, 201.9 mmol) in bromobenzene (100 mL) was stirred at reflux for 50 min. The reaction mixture was cooled to 50° C. and diluted with EtOAc (260 mL). The solid was collected by filtration, washed with water, and dried to give 4,6-dihydroxy-2-methyl nicotinic acid ethyl ester (31 g, 86%). A solution of 4,6-dihydroxy-2-methyl nicotinic acid ethyl ester (31 g, 157 mmol) in phosphorus oxychloride (60 mL, 629 mmol) was stirred at reflux for 1.5 h. The extra phosphorus oxychloride was removed and the reaction mixture was poured into ice water. The solid was removed by filtration. The filtrate was extracted with dichloromethane (3×100 mL) and concentrated. The residue was further purified by column chromatography, to yield 4,6-dichloro-2-methyl nicotinic acid ethyl ester (16.9 g, 46%). A solution of 4,6-dichloro-2-methyl nicotinic acid ethyl ester (16.9 g, 71.3 mmol) in MeOH (60 mL) was mixed with sodium methoxide (58 mL, 256.68 mmol) and stirred at reflux for 12 h. The reaction was quenched by adding HOAc (50 mL). The mixture was diluted with water (200 mL), extracted with dichloromethane (3×100 mL), and concentrated. The residue was purified by column chromatography (SiO2, hexanes/EtOAc=6:1), to yield 4,6-dimethoxy-2-methyl nicotinic acid methyl ester (10 g, 67%). A solution of 4,6-dimethoxy-2-methyl nicotinic acid methyl ester (2.6 g, 12.3 mmol), lithium hydroxide (1.06 g, 44.08 mmol) in water (40 mL), MeOH (30 mL) and THF (20 mL) was stirred at reflux for 4 h. The reaction mixture was concentrated to dryness. The residue was mixed with HCl (conc., 20 mL) and was concentrated again on high vacuum to dryness to yield crude 4,6-dimethoxy-2-methyl nicotinic acid (quantitative yield). To a solution of 4,6-dimethoxy-2-methyl nicotinic acid (2.5 g, 12.0 mmol) in dichloromethane (50 mL) and THF (50 mL) at room temperature was added oxalyl chloride (2.57 mL, 29.4 mmol) and DMF (3 drops). The reaction mixture was stirred at room temperature for 0.5 h, concentrated to dryness using a rotary evaporator to afford crude 4,6-dimethoxy-2-methyl nicotinic acid chloride HCl salt (2.8 g, quantitative). A solution of 4,6-dimethoxy-2-methyl nicotinic acid chloride HCl salt (4.8 g, 23.5 mmol) in dichloromethane (100 mL) at room temperature was poured into a beaker of ammonium hydroxide (200 mL). The reaction mixture was stirred at room temperature for 1 h, extracted with dichloromethane (3×100 mL), and concentrated using a rotary evaporator to yield 4,6-dimethoxy-2-methyl-nicotinamide (2.4 g, 52%) as a light yellow solid. A solution of 4-hydroxy-3,5-dimethylbenzonitrile (2.00 g, 13.59 mmol) in DMF (20 mL) at room temperature was mixed with sodium hydride (0.706 g, 17.6 mmol) and stirred for 0.5 h. Benzyl bromide (1.62 mL, 13.59 mmol) was added and the reaction mixture was stirred at room temperature for 24 h. The reaction was quenched by adding water (200 mL), extracted with EtOAc (3×100 mL), and concentrated. The residue was purified by column chromatography to yield 4-benzyloxy-3,5-dimethylbenzonitrile (3.25 g, 100%) as a white solid. To a solution of 4,6-dimethoxy-2-methyl-nicotinamide (1 g, 5.1 mmol) in THF (120 mL) at −20° C. was added n-BuLi (9.6 mL, 15.3 mmol). The reaction was stirred at −20-0° C. for 2.5 h and then was cooled to −78° C. 4-Benzyloxy-3,5-dimethylbenzonitrile (1.21 g, 5.1 mmol) was added, the cooling bath was removed, and the reaction was allowed to warm up gradually to room temperature. After stirring at room temperature for 20 h the reaction was quenched by adding water (100 mL), extracted with dichloromethane (3×100 mL), and concentrated using a rotary evaporator. The residue was further purified by column (SiO2, Hexanes/EtOAc/MeOH=3:2:1) to yield 7-(4-benzyloxy-3,5-dimethyl-phenyl)-2,4-dimethoxy-[1,6]naphthyridin-5-ylamine (0.4 g, 19%) and 7-(4-benzyloxy-3,5-dimethyl-phenyl)-2,4-dimethoxy-6H-[1,6]naphthyridin-5-one (0.34 g, 16%). A solution of 7-(4-benzyloxy-3,5-dimethyl-phenyl)-2,4-dimethoxy-6H-[1,6]naphthyridin-5-one (0.34 g, 0.82 mmol) in DMF (100 mL) and MeOH (100 mL) was mixed with palladium/carbon (0.1 g) and subjected to hydrogenation (50 psi) for 2 h. The mixture was filtered through a Celite-pad. The filtrate was concentrated on high vacuum to afford 7-(4-hydroxy-3,5-dimethyl-phenyl)-2,4-dimethoxy-6H-[1,6]naphthyridin-5-one (0.23 g, 88%). A solution of 7-(4-hydroxy-3,5-dimethyl-phenyl)-2,4-dimethoxy-6H-[1,6]naphthyridin-5-one (0.23 g, 0.7 mmol) in MeOH (20 mL) and DCM (20 mL) was mixed with HCl in ether (7 mL, 7 mmol) and stirred for 0.5 h. The reaction was concentrated using a rotary evaporator to get a solid residue. The solid was rinsed with DCM, collected by filtration, washed with DCM to yield the HCl salt of 7-(4-hydroxy-3,5-dimethylphenyl)-2,4-dimethoxy-1,6-naphthyridin-5(6H)-one (0.15 g, 59%) as a light yellow solid. Selected data: MS (ES) m/z: 327.06; MP>324° C. at decomposition (HCl salt).

reactant | 7-(4-benzyloxy-3,5-dimethyl-phenyl)-2,4-dimethoxy-6H-[1,6]naphthyridin-5-one | 0.82 mmol, 0.34 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C=1NC(C=2C(=CC(=NC2C1)OC)OC)=O)C | C25H24N2O4
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 100 mL | CO | CH4O
catalyst | palladium/carbon | 0.1 g | [Pd] | Pd
product | 7-(4-hydroxy-3,5-dimethyl-phenyl)-2,4-dimethoxy-6H-[1,6]naphthyridin-5-one | 0.23 g, 88% | OC1=C(C=C(C=C1C)C=1NC(C=2C(=CC(=NC2C1)OC)OC)=O)C | C18H18N2O4
